US08541448B2
Intermediate 28.1: N-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide
To 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethanamine (1.5 g, 6.87 mmol, 1.79 equiv) in DCM (20 mL) was added triethylamine (1.5 g, 14.82 mmol, 3.86 equiv) and 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride (1.5 g, 3.84 mmol, 1.00 equiv). The reaction was stirred overnight at room temperature at which time the resulting mixture was concentrated under vacuum. The residue was dissolved in 100 mL of ethyl acetate and then was washed with 2×20 mL of water, dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 1.8 g (85%) of N-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide as yellow oil.

reactant | 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethanamine | 6.87 mmol, 1.5 g, 1.79 equiv | N(=[N+]=[N-])CCOCCOCCOCCN | C8H18N4O3
reactant | triethylamine | 14.82 mmol, 1.5 g, 3.86 equiv | C(C)N(CC)CC | C6H15N
reactant | 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride | 3.84 mmol, 1.5 g, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)Cl | C16H14Cl3NO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide | N(=[N+]=[N-])CCOCCOCCOCCNS(=O)(=O)C1=CC(=CC=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C24H31Cl2N5O5S
